* A dual opamp ngspice model
.subckt TL072 1out 1in- 1in+ vcc- 2in+ 2in- 2out vcc+
.include TL071.301
XUnit1 1in+ 1in- vcc+ vcc- 1out TL071
XUnit2 2in+ 2in- vcc+ vcc- 2out TL071
.ends
